US06586421B2
Preparation of tert-butyl (5aS*,10bS*)-9,10-dichloro-6-{2-[(2,3-dimethylphenyl)amino]-2-oxoethyl }-1,4,5,5a,6,10b-hexahydroazepino[4,5-b]indole-3(2H)-carboxylate
EEDQ (0.57 g, 2.3 mmol) and 2,3-dimethylaniline (0.28 g, 2.3 mmol) were added to a solution of [3-(tert-butoxycarbonyl) (5aS*,10bS*)-9,10-dichloro-2,3,4,5,5a,10b-hexahydroazepino[4,5-b]indol-6(1H)-yl]acetic acid (0.80 g, 1.9 mmol) in THF (20 mL). The reaction was heated to 50° C., cooled to rt after 6 h, and concentrated. The crude product was purified via column chromatography (Biotage, 40 M) with CH2Cl2/MeOH (99: 1) followed by crystallization from EtOAc/heptane to give a white solid: mp 145.5-146.0° C.; 1H NMR (CDCl3, 300 MHz) δ 68.49 (br s, 1H), 7.31 (m, 1H), 7.21 (d, J=8.3Hz, 1H), 7.13 (m, 1H), 7.00 (d, J=7.5 Hz, 1H), 6.37 (d, J=8.4Hz, 1H), 3.89 (m, 2H), 3.78 (m, 2H), 3.66 (m, 1H), 3.58 (m, 1H), 3.33 (m, 2H), 2.34 (m, 1H), 2.27(s, 3H), 2.17 (m, 1H), 2.02 (s, 3H), 1.90 (m, 2H), 1.45 (s, 9H); IR (diffuse reflectance) 1692, 1661, 1596, 1517, 1499, 1465, 1428, 1365, 1329, 1265, 1252, 1241, 1177, 1142, 795 cm−1; MS (EI) m/z 517 (M+), 519, 315, 313, 269, 228, 226, 57, 56, 55; Anal. Calcd for C27H33Cl2N3O3: C, 62.55; H, 6.41; N, 8.10; found: C, 62.53; H, 6.43; N, 8.08.

reactant | EEDQ | 2.3 mmol, 0.57 g | CCOC1C=CC2=CC=CC=C2N1C(=O)OCC | C14H17NO3
reactant | 2,3-dimethylaniline | 2.3 mmol, 0.28 g | CC1=C(N)C=CC=C1C | C8H11N
reactant | [3-(tert-butoxycarbonyl) (5aS*,10bS*)-9,10-dichloro-2,3,4,5,5a,10b-hexahydroazepino[4,5-b]indol-6(1H)-yl]acetic acid | 1.9 mmol, 0.80 g | C(C)(C)(C)OC(=O)N1CC[C@@H]2N(C=3C=CC(=C(C3[C@@H]2CC1)Cl)Cl)CC(=O)O | C19H24Cl2N2O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-butyl (5aS*,10bS*)-9,10-dichloro-6-{2-[(2,3-dimethylphenyl)amino]-2-oxoethyl }-1,4,5,5a,6,10b-hexahydroazepino[4,5-b]indole-3(2H)-carboxylate | ClC1=C(C=2[C@H]3[C@@H](N(C2C=C1)CC(=O)NC1=C(C(=CC=C1)C)C)CCN(CC3)C(=O)OC(C)(C)C)Cl | C27H33Cl2N3O3
